US07351719B2
182) (E)-N-[3-chloro-4-(2-diethylamino-ethoxy)-phenyl]-3-pyridin-2-yl-acrylamide
Prepared analogously to Example 172 starting from (E)-3-pyridin-2-yl-acrylic acid and 3-chloro-4-(2-diethylamino-ethoxy)-phenylamine (Z2b) at RT (72 h). The crude product was purified by column chromatography (silica gel, dichloromethane/MeOH/conc. aqueous ammonia 90:10:0.1) and recrystallisation from petroleum ether.

reactant | (E)-3-pyridin-2-yl-acrylic acid | N1=C(C=CC=C1)/C=C/C(=O)O | C8H7NO2
reactant | 3-chloro-4-(2-diethylamino-ethoxy)-phenylamine | ClC=1C=C(C=CC1OCCN(CC)CC)N | C12H19ClN2O
product | (E)-N-[3-chloro-4-(2-diethylamino-ethoxy)-phenyl]-3-pyridin-2-yl-acrylamide | ClC=1C=C(C=CC1OCCN(CC)CC)NC(\C=C\C1=NC=CC=C1)=O | C20H24ClN3O2
